US06124323
1-[2-(4-Hydroxy-3-methylphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride
The title compound was prepared from 4-(4-methylbenzyl)piperidine hydrochloride (339 mg, 1.5 mmol), 2-(4-benzoxy-3-methylphenoxy)ethyl bromide (482 mg, 1.5 mmol) and potassium carbonate (518 mg, 3.8 mmol) in two steps as white-off solid (250 mg): mp 161-163° C. 1H NMR (CD3OD) 1.328 (m, 2 H), 1.697 (m, 3 H), 1.964 (s, 3 H), 2.092 (s, 3 H), 2.384 (m, 2 H), 2.826 (m, 2 H), 3.279 (m, 2 H), 3.427 (m, 2 H), 4.037 (d, J=4.5 Hz, 2 H), 6.469 (m, 2 H), 6.563 (m, 1 H), 6.877 (m, 4 H). Anal. Calcd for C22H30ClNO2.0.6H2O: C, 68.31; H, 8.13; N, 3.62. Found: C, 68.52; H, 7.85; N, 3.65.

reactant | 4-(4-methylbenzyl)piperidine hydrochloride | 1.5 mmol, 339 mg | Cl.CC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(4-benzoxy-3-methylphenoxy)ethyl bromide | 1.5 mmol, 482 mg | C(C1=CC=CC=C1)OC1=C(C=C(OCCBr)C=C1)C | C16H17BrO2
reactant | potassium carbonate | 3.8 mmol, 518 mg | C([O-])([O-])=O.[K+].[K+]
product | 1-[2-(4-Hydroxy-3-methylphenoxy)ethyl]-4-(4-methylbenzyl)piperidine hydrochloride | Cl.OC1=C(C=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)C)C=C1)C | InChI=1S/C22H29NO2.ClH/c1-17-3-5-19(6-4-17)16-20-9-11-23(12-10-20)13-14-25-21-7-8-22(24)18(2)15-21;/h3-8,15,20,24H,9-14,16H2,1-2H3;1H
